US08217069B2
2-Aminomethyl-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one hydrochloride
To a solution of 2-(tert-butoxycarbonylaminomethyl)-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one (36 mg) in tetrahydrofuran (1 mL) was added hydrochloric acid (4 mol/L ethyl acetate solution, 2 mL) under ice-cooling, and the mixture was stirred at the same temperature for 1 hour, and then stirred at room temperature for 3 hours. To the reaction mixture was added diethyl ether, and the insoluble material was collected by filtration. The collected material was washed with diethyl ether, and dried under reduced pressure to give the title compound (14 mg).

reactant | 2-(tert-butoxycarbonylaminomethyl)-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one | 36 mg | C(C)(C)(C)OC(=O)NCC1=NC(=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)=O)OC | C27H28ClF2N5O7
reactant | hydrochloric acid | 4 mol/L, 2 mL | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 2-Aminomethyl-9-[2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one hydrochloride | 14 mg | Cl.NCC1=NC(=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OC)Cl)=O)OC | InChI=1S/C22H20ClF2N5O5.ClH/c1-32-14-5-4-12(24)18(25)10(14)9-35-16-7-13(11(23)6-15(16)33-2)30-20-19(29-22(30)31)21(34-3)28-17(8-26)27-20;/h4-7H,8-9,26H2,1-3H3,(H,29,31);1H
